US04301152
A solution of 2,3,4-tri-O-acetyl-6-deoxy-6-phthalimido-α-D-galactopyranosyl bromide (4.0 g.) and thiourea (0.67 g.) in dry acetone (20 ml.) is heated under reflux for 4 hours. The solution is evaporated in vacuo to a syrup which is partitioned between water and dichloromethane. The organic layer is reextracted with water three times. The combined aqueous extracts are evaporated to give 2-S-(2,3,4-tri-O-acetyl-6-deoxy-6-phthalimido-β-D-galactopyranosyl)-2-thiopseudourea (3.40 g.).

reactant | 2,3,4-tri-O-acetyl-6-deoxy-6-phthalimido-α-D-galactopyranosyl bromide | 4.0 g | C(C)(=O)O[C@H]1[C@H](O[C@@H]([C@@H]([C@@H]1OC(C)=O)OC(C)=O)CN1C(C=2C(C1=O)=CC=CC2)=O)Br | C20H20BrNO9
reactant | thiourea | 0.67 g | NC(=S)N | CH4N2S
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 2-S-(2,3,4-tri-O-acetyl-6-deoxy-6-phthalimido-β-D-galactopyranosyl)-2-thiopseudourea | 3.40 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@@H]([C@@H]1OC(C)=O)OC(C)=O)CN1C(C=2C(C1=O)=CC=CC2)=O)SC(N)=N | C21H23N3O9S
